US04333937
2-[4-(4-Amino-6,7-dimethoxyquinazolin-2-yl)-1-piperazinyl]-2,4,6-cycloheptatrien-1-one (Ia: R3 =1-oxo-2,4,6-cycloheptatrien-2-yl; R4, R5, R6 and R9 =H; R7 and R8 =OMe; and n=1)
A suspension of 2-(1-piperazinyl)-4-amino-6,7-dimethoxyquinazoline (2.48 g, prepared as described by T. H. Althuis and H.-J. Hess, J. Med. Chem., cited above), triethylamine (2.3 g) in butanol (190 ml) was stirred at room temperature for 2 hr and 2-methoxy-2,4,6-cycloheptatrien-1-one (2.06 g) was added. The mixture was refluxed for 48 hr, evaporated and chromatographed through silica gel using dichloromethane-methanol (9:1). The appropriate fractions were evaporated to give 1.73 g of the title compound. The latter material was stirred for 2 hr in a solution of hydrogen chloride in methanol and evaporated. The residue was crystallized from dichloromethane-methanol to give the title compound as the hydrochloride salt (0.835 g): mp 220°-224° C.; uv max (MeOH) 246 (ε=51740) and 343 nm (ε=25525); nmr (DMSO-d6) δ 3.55 (m, 4H), 3.85 (s, 6H), 4.05 (m, 4H), 7.0 (m, 5H), 7.75 (s, 1H) and 7.85 (s, 1H); and Anal. Calcd for C21H23N5O3.HCl: C, 58.66% H, 5.63% N, 16.29% and Found: C, 57.62% H, 5.50% N, 16.38% H2O, 1.86%.

reactant | 2-(1-piperazinyl)-4-amino-6,7-dimethoxyquinazoline | 2.48 g | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | triethylamine | 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-methoxy-2,4,6-cycloheptatrien-1-one | 2.06 g | COC=1C(C=CC=CC1)=O | C8H8O2
solvent | butanol | 190 ml | C(CCC)O | C4H10O
product | 2-[4-(4-Amino-6,7-dimethoxyquinazolin-2-yl)-1-piperazinyl]-2,4,6-cycloheptatrien-1-one | 1.73 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C=1C(C=CC=CC1)=O | C21H23N5O3
